US08865732B2
The above solution of 2-(4-(trifluoromethyl)phenyl)-4,5-dihydrooxazole (4.8 g, 22 mmol), NBS (11.9 g, 66.9 mmol), and AIBN (0.18 g, 1.12 mmol) in CCl4 (200 mL) was refluxed for 16 h. The resulting solution was filtered and the filtrate was washed with aqueous 10% Na2S2O3 (3×150 mL), brine (100 mL), dried (Na2SO4), and concentrated. The resulting residue was recrystallized from hexanes (350 mL) to provide 3.2 g of 5-bromo-2-(4-(trifluoromethyl)phenyl)oxazole as a crystalline solid. The filtrate and mother liquor was concentrated and purified by flash chromatography over (SiO2, 100:0-90:10 hexanes-EtOAc). to furnish an additional 1.8 g: LCMS (m/z): 294.0 (MH+), tR=1.14 min.

reactant | 2-(4-(trifluoromethyl)phenyl)-4,5-dihydrooxazole | 22 mmol, 4.8 g | FC(C1=CC=C(C=C1)C=1OCCN1)(F)F | C10H8F3NO
reactant | NBS | 66.9 mmol, 11.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 1.12 mmol, 0.18 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromo-2-(4-(trifluoromethyl)phenyl)oxazole | 3.2 g | BrC1=CN=C(O1)C1=CC=C(C=C1)C(F)(F)F | C10H5BrF3NO
